US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1-acetyloxy-3-carboxyadamantane obtained by the above method was dissolved in 10 ml of DMF. To the mixture, 15 mmole of N,N′-carbodiimidazol in the form of powder was added in one portion. After stirring for 1 hour at the room temperature, 15 mmole of dimethylamine and 15 mmole of diazabicycloundecene were added. The mixture was heated to 100° C. and stirred for 8 hours. As a result, the conversion of 1-acetyloxy-3-carboxyadamantane was 80%, and 1-acetyloxy-3-(N,N-dimethylcarbamoyl)adamantane (yield 70%) was formed.

reactant | dimethylamine | 15 mmole | CNC | C2H7N
reactant | diazabicycloundecene | 15 mmole | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | 1-acetyloxy-3-carboxyadamantane | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)C(=O)O | C13H18O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-acetyloxy-3-(N,N-dimethylcarbamoyl)adamantane | yield 70% | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)C(N(C)C)=O | C15H23NO3
